US05047592
The above-detailed manganese dioxide oxidation was effected on 51 mg (0.20 mmol) 79% epinine hydrochloride, yielding a deep red solution of epinochrome. This was isomerized over a mixture of 0.56 g (2.5 mmol) of zinc acetate and 15 mL of ethyl acetate. After 45 min of rapid stirring, this mixture was yet slightly pink. It was again Schlenk-filtered under N2, then it was partitioned. Extractions and drying were performed as in Example 5. After an identical acetylation process, 31 mg (63% yield) of DAMI was collected.

reactant | epinine hydrochloride | 0.20 mmol, 51 mg | CNCCC1=CC(=C(C=C1)O)O.Cl
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | epinochrome | 63% yield | CN1CCC2=CC(=O)C(=O)C=C21 | C9H9NO2
